* AD8277 SPICE Macro-model (dual AD8276)
* Description: Amplifier
* Generic Desc: iPolar, DiffAmp, Low Cost,low power, G=1
* Developed by:
* Revision History:
*		08/10/2012 - Updated to new header style
*		11/18/2013 - Added supply offsets to correct for output voltage swing
*		12/18/2014 - Nulled offsets as they broke model for single-supply operation, turned them into fine-trim values
*
* 1.3 (12/2014)
* Copyright 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*
* Parameters modeled include:
* END Notes
*
*$
.subckt AD8277 PIN1 NIN1 OUT1 SENSE1 REF1 PIN2 NIN2 OUT2 SENSE2 REF2 VPP VNN
* XU1 NC_01 NC_02 NC_03 NC_04 NC_05 NC_06 NC_07 AD8276
XU1 PIN1 NIN1 Vpp Vnn OUT1 REF1 SENSE1 AD8276
XU2 PIN2 NIN2 Vpp Vnn OUT2 REF2 SENSE2 AD8276
.ends

* Node assignments
		+IN	-IN	Vcc	Vee	Out	Ref	Sense

.subckt AD8276	Pin	Nin	Vpp	Vnn	out	Ref	Sense
*** Hack for correcting output swing
Vhh vcc vpp 0
Vhn Vee vnn 0.080
*** Internal Resistors
R63	Pin	1	Rideal	4.00E+04
R62	Nin	2	Rideal	4.00E+04
R61	Ref	1	Rideal	4.00E+04
R65	Sense	2	Rideal	4.00E+04
***Differential Stage
Q1	13	12	14	npn
Q2	17	2	16	npn
Rc1	98	13	Rideal	4.200E+00
Rc2	98	17	Rideal	4.200E+00
Re1	14	15	Rideal	4.148E+00
Re2	15	16	Rideal	4.148E+00
Ibias	15	51	1.00E+00
Dcmlim1	18	15	DQUIET
Vcmlim1	18	51	-0.074
***Voltage Noise Generation
HVnoise	9	7	Vvnoise	1
VVnoise	501	0	0
DVnoise	501	0	Dvnoise
RVnoise	501	0	3.37959E-06
***Current Noise Generation on +IN
FInoise1	12	0	VInoise1	1
VInoise1	502	0	0
DInoise1	502	0	DInoise1
RInoise1	502	0	287500
***Current Noise Generation on -IN
FInoise2	2	0	VInoise2	1
VInoise2	503	0	0
DInoise2	503	0	DInoise2
RInoise2	503	0	287500
***Common Mode Injection
Rcm1	1	601	Rideal	100Meg
Rcm2	2	601	Rideal	100Meg
Gcmr	0	602	601	75	1.00E-06
Rcmr1	602	603	Rideal	1Meg
Rcmr2	603	604	Rideal	3.162E+01
Lcmr	604	0	1.007E-03
Ecmr	10	9	603	0	1.000E+00
***Positive Power Supply Rejection
Epsr1	700	0	98	0	1
Rpsr1	700	701	Rideal	1.00E+02
Rpsr2	701	702	Rideal	1.000E-03
Lpsr1	702	0	3.979E-06
Epsr2	11	10	701	0	1
***Negative Power Supply Rejection
Epsr3	703	0	51	0	1
Rpsr3	703	704	Rideal	1.00E+02
Rpsr4	704	705	Rideal	1.000E-03
Lpsr2	705	0	5.305E-07
Epsr4	12	11	704	0	1
***Input Offset and Bias
Vos	1	7	1.000E-04
Ios	1	2	0.000E+00
***Input Impedance
Cinv	2	0	6.00E-13
Cninv	1	0	6.00E-13
***1st Gain and Slew limiting
Gslew	0	101	17	13	1.0000E+00
Rslew	101	0	Rideal	2.50E+02
Dslew1	101	102	DZENER
Dslew2	0	102	DZENER
***Second Gain and Dominant Pole with Output Voltage Limiting
Gp1	51	201	101	0	4.173E-08
Rp1	201	51	Rideal	3.032E+13
Cp1	201	51	1.50E-12
Vlim1	97	206	0.35
Dlim1	201	206	dquiet
Vlim2	207	52	0.35
Dlim2	207	201	dquiet
Esupref1	97	98	51	0	1
Esupref2	52	51	51	0	1
***Second Pole
Gp2	0	202	201	51	1.00E-03
Rp2	202	0	Rideal	1.00E+03
Cp2	202	0	3.1831E-11
***Third Pole
Gp3	0	203	202	0	1.00E-03
Rp3	203	0	Rideal	1.00E+03
Cp3	203	0	3.1831E-11
***Fourth Pole
Gp4	0	204	203	0	1.00E-03
Rp4	204	0	Rideal	1.00E+03
Cp4	204	0	1.59155E-16
***Fifth Pole
Gp5	0	205	204	0	1.00E-03
Rp5	205	0	Rideal	1.00E+03
Cp5	205	0	1.592E-16
***First Zero
Gz1	0	301	205	0	1.00E-03
Rz1	301	302	Rideal	1.00E+03
Lz1	302	0	1.061E-04
***Second Zero
Gz2	0	303	301	0	1.00E-03
Rz2	303	304	Rideal	1.00E+03
Lz2	304	0	1.592E-10
***Third Zero
Gz3	0	305	303	0	1.00E-03
Rz3	305	306	Rideal	1.00E+03
Lz3	306	0	1.59E-10
***Buffer
Gbuf	0	401	305	0	1.00E-04
Rbuf	401	0	Rideal	1.00E+04
***Output with current limiting
Eout	404	0	401	0	1.000E+00
Rout	404	405	RIDEAL	1.000E+00
Lout	405	406	1.00E-19
Cout	406	0	5.70E-11
Voutmon	406	4	0
Dout1	401	407	Dquiet
Vout1	407	406	-6.150E-01
Dout2	408	401	Dquiet
Vout2	406	408	-6.150E-01
Rsmall	4	out	1000
***Voltage reference generator
Eref1	98	0	Vcc	0	1
Eref2	51	0	Vee	0	1
Rref1	98	901	Rideal	100Meg
Rref2	901	51	Rideal	100Meg
Eref3	75	0	901	0	1
***Supply current correction
Iq	Vcc	Vee	0.00020
Fsup1	Vcc	0	Voutmon	1
*DZsup1	0	802	DZENER2
*Dsup1	Vcc	802	DQUIET
Fsup2	0	Vee	Voutmon	-1
*DZsup2	804	0	DZENER2
*Dsup2	804	Vee	DQUIET
***models
.model	Rideal	res	T_ABS=27
.model	Rnoise	res	T_ABS=27
.model	npn	npn	BF= 8333332.33333333
.model	dquiet	d
.model	dvnoise	d	KF=980000
.model	dinoise1	d	KF=0.000576
.model	dinoise2	d	KF=0.000576
.model	dzener	d	BV=38.9444143409777
.model	dzener2	d	BV=50
.ends


